US06211199B1
16.4 Synthesis of 3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)piperidine
Combine a solution of lithium aluminum hydride (42 mL, 1 M in THF, 42.0 mmol). Cool to about −10° C. using an isopropyl alcohol/ice bath. Slowly add a solution of sulfuric acid (1.15 mL, 21.6 mmol) in tetrahydrofuran (4 mL) at such a rate that the reaction temperature does not rise above −10° C. Stir vigorously and warm to ambient temperature. After 2 hours, add a solution of 3-(3,4-dichlorophenyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-6-oxopiperidine (5.56 g, 13.85 mmol) in tetrahydrofuran (12 mL). Heat to reflux. After 18 hours, add 1/1 tetrahydrofuran/water. After 1 hour, filter and rinse with dichloromethane. Suspend the solids removed by filtration in tetrahydrofuran (400 mL). To the tetrahydrofuran suspension add water (20 mL) and 15% aqueous sodium hydroxide solution (8 mL) and stir vigorously. After 2 hours, filter. Combine the filtrates and concentrate in vacuo to give an aqueous suspension. Extract twice with dichloromethane. Dry the organic layers over Na2SO4, filter, and concentrate in vacuo to give the title compound.

reactant | lithium aluminum hydride | 42.0 mmol, 1 M, 42 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 21.6 mmol, 1.15 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-(3,4-dichlorophenyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-6-oxopiperidine | 13.85 mmol, 5.56 g | ClC=1C=C(C=CC1Cl)C1(CNC(CC1)=O)CCO[Si](C)(C)C(C)(C)C | C19H29Cl2NO2Si
reactant | tetrahydrofuran water | O1CCCC1.O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)piperidine | ClC=1C=C(C=CC1Cl)C1(CNCCC1)CCO | C13H17Cl2NO
